US05877191
(3S,5R,6R,7S)-7-(N-(Benzyloxycarbonyl)methylamino)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane (7.0 mg, 0.011 mmol) in 0.30 mL of ethanol and 0.24 mL of acetic acid was hydrogenated on the Parr shaker at 47 psi, using 2.3 mg of 20% palladium(II) hydroxide on carbon. After 3 h, the mixture was filtered through 0.45 micron filter and the filtrate was evaporated. The residue was taken in 2.0 mL of ethyl acetate and washed with 1.0 mL of saturated aqueous sodium bicarbonate followed by 1.0 mL of brine. Drying over sodium sulfate and evaporation gave N-methyl((3S,5R,6R,7S)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]non-7-yl)amine. 1NMR (400 MHz, CD3OD): δ7.45 (dd, 2H, J=9, 6 Hz ), 7.29 (d, 1H, J=1 Hz ), 7.21 (d, 1H, J=1 Hz ), 7.19 (dd, 1H, J=9, 2 Hz ), 7.01 (t, 2H, J=9 Hz ), 7.00 (d, 1H, J=9 Hz ), 6.58 (d, 1H, J=2 Hz ), 4.12-4.00 (m, 2H), 3.84-3.75 (m, 1H), 3.79 (s, 3H), 3.13 (d, 1H, J=10 Hz ), 3.05 (t, 1H, J=8 Hz ), 2.54-2.42 (m, 1H), 2.52 (s, 3H), 2.28 (dd, 1H, J=13, 8 Hz ), 2.27-2.20 (m, 1H), 2.07 (ddd, 1H, J=13, 10, 9 Hz ), 1.91 (dd, 1H, J=13, 11 Hz ), 1.90-1.80 (m, 1H). Mass spectrum (NH3/CI): m/z=490.1 (M+1).

reactant | (3S,5R,6R,7S)-7-(N-(Benzyloxycarbonyl)methylamino)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane | 0.011 mmol, 7.0 mg | C(C1=CC=CC=C1)OC(=O)CN[C@@H]1[C@H]([C@]2(C[C@H](CO2)C2=C(C=CC(=C2)N2C(=NC=C2)C(F)(F)F)OC)CC1)C1=CC=C(C=C1)F | C34H33F4N3O4
solvent | ethanol | 0.30 mL | C(C)O | C2H6O
solvent | acetic acid | 0.24 mL | C(C)(=O)O | C2H4O2
catalyst | palladium(II) hydroxide | 2.3 mg | [OH-].[Pd+2].[OH-]
product | N-methyl((3S,5R,6R,7S)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]non-7-yl)amine | CN[C@@H]1[C@H]([C@]2(C[C@H](CO2)C2=C(C=CC(=C2)N2C(=NC=C2)C(F)(F)F)OC)CC1)C1=CC=C(C=C1)F | C26H27F4N3O2
